Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Visual Change
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ F w PMHx of HLD and GERD who 
presents
to ___ from ___ for neurological evaluation of
brief episode of visual changes on ___.
Ms. ___ reports that she was in her usual state of health
on the day of the episode, ___. She was at home watching
television with a friend. She turned from the television to 
speak
with her friend, and when she turned back to look at the
television a few seconds later, all she could see was
"fireworks". She states that her entire visual field was 
involved
simultaneously and instantaneously. She was unable to see the
television or her hands through the flashes of color. She is 
sure
that the disturbance was present in both eyes. She was able to
speak to her friend through the episode, and able to understand
his speech. He looked at her eyes and thought they appeared
"normal." There were no other associated symptoms, including
weakness or sensory abnormalities.
After ___ seconds, the symptoms resolved instantaneously. She
denies feeling tired or confused following the event. She does
report that after the symptoms resolved, she felt slightly
nauseated. She denies any associated HA, vision changes, or
sensorimotor complaints following the episode. 
She went to bed that evening, but decided to go to ___ the next morning (___) "to get checked out." ___ transferred Ms. ___ to ___ ___ for further
neurological evaluation.
.
On ROS, Ms. ___ reports that she is "just getting over a
cold" that she has had for the last week. Prior to that she had
her first kidney stone. About 1 month ago she was very sick with
the flu, and it took her around 2.5 weeks to recover fully. She
denies any recent fevers, poor PO intake, diarrhea, chest pain.
She reports that she has been sleeping well and has no new
stressors in her life. Her blood pressure is elevated in the ___,
but she denies having elevated blood pressure in the past. Her
medications have all been largely stable aside from a new Rx for
Ambien, which was given to her after her kidney stone.
.
She denies any episodes in the past concerning for seizures. No
TBI, concussion, or CNS infections.
 
Past Medical History:
- HLD
- GERD
- kidney stone

 
Social History:
___
Family History:
No known family history of seizures, CVA/MI.
 
Physical Exam:
============================
ADMISSION PHYSICAL EXAM
============================
VS T97.5 HR77 BP164/89 RR17 Sat100%RA 
GEN - elderly F, well developed, well appearing
HEENT - NC/AT, MMM
NECK - no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - brightly awake, alert, oriented x3. Able to recount recent
and remote medical history without difficulty. Performs MOYB
briskly and correctly. Language is fluent with normal prosody 
and
no paraphasic errors. Naming, comprehension, and repetition are
all intact. No evidence of apraxia or neglect.

CN - VFF to finger counting. Sharp disc margins bilaterally.
EOMI. PERRL. Facial sensation intact to LT and PP. Face 
symmetric
at rest and with activation. Hearing intact to voice. Palate
elevates symmetrically. SCMs and traps full power. Tongue is
midline with full ROM.

MOTOR - Normal bulk and tone. No drift or orbiting. Grossly full
power throughout. There is some mild proximal weakness in BUEs
and BLEs, symmetric, likely due to deconditioning.

SENSORY - Intact to LT and PP throughout. Proprioception intact
at bilateral great toes.

REFLEXES - 2+ in BUEs, +Pectoral jerks. 2 at patellas B/L. 
Absent
ankle jerks. Toes are down going bilaterally.

COORD - No dysmetria on FNF bilaterally. No truncal titubation
sitting up at bedside. Negative Romberg.

GAIT - Normal initiation, narrow base. Stable without sway.
.
.
============================
DISCHARGE PHYSICAL EXAM
============================
VS 98.4F Tmax 133-173/75-94, HR 76-93, RR ___, 98-100% on RA
General - NAD
Mental status - A and Ox3, follows all commands well
Cranial nerves - PERRL 4 to 3mm bilaterally, face symmetric, 
EOMI but does not bury sclera full on left ward gaze, symmetric 
palatal elevation, visual fields full
Motor - ___ Deltoid, IP, Hamstring
Sensory - Symmetric to light touch, initially misses nose with 
UE proprioception of left hand but then corrects well. 
 
Pertinent Results:
======================
ADMISSION LABS
======================

___ 06:05AM BLOOD WBC-9.3 RBC-5.43* Hgb-11.7 Hct-37.1 
MCV-68* MCH-21.5* MCHC-31.5* RDW-15.8* RDWSD-36.2 Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD ___ PTT-32.3 ___
___ 05:15PM BLOOD Glucose-71 UreaN-12 Creat-0.5 Na-138 
K-6.2* Cl-104 HCO3-21* AnGap-19
___ 05:15PM BLOOD ALT-47* AST-98* AlkPhos-83 TotBili-0.3
___ 05:15PM BLOOD Albumin-4.0 Calcium-9.4 Phos-3.8 Mg-2.1
___ 05:15PM BLOOD CRP-3.8
___ 05:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:00PM BLOOD SED RATE-Test      
___ 02:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 02:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
.
.
============
EEG ROUTINE ___
============
IMPRESSION: This was a normal waking EEG. No focal abnormalities 
or 
epileptiform discharges were seen. 
  .
===============
IMAGING
===============
MRI/MRA BRAIN ___
1. No evidence of acute intracranial abnormalities, posterior 
reversible 
encephalopathy syndrome, or mass. 
2. Unremarkable brain MRA without evidence for reversible 
cerebral 
vasoconstriction syndrome. 
3. Unremarkable neck MRA without evidence of internal carotid 
artery stenosis 
by NASCET criteria. 

 
Brief Hospital Course:
___ F with h/o HLD, initially somewhat hypertensive in ___ - 
highest in the 160s, with transient episode of positive visual 
phenomenon which is described as encompassing entire visual 
field bilaterally. From her positive visual symptoms, the 
differential was concerning for retinal process vs migraine with 
less likely seizure, vascular event (occipital), PRES (no clear 
trigger for this). Symptoms did not recur after her initial 
presentation. 
.
Migraine was felt to be less likely given her lack of headache 
history. Seizure was a possibility, though there were a 
conspicuous lack of triggers in her history. Vascular insult is 
also possible, and PRES should be entertained in the setting of 
newly elevated blood pressure, visual changes, and possible 
seizure.  
.
MRI with and without contrast along with MRA head and neck were 
unremarkable. She did have an extended routine EEG with no 
clinical events that was also without any epileptiform 
discharges. Her home medications were continued. Her general lab 
testing as well as ESR/CRP were within normal limits aside from 
a mild transaminitis and mildly low MCV. 
.
Given the above, there was no evidence for seizure, vascular, or 
PRES event. It was thought that retinal process was next highest 
on the differential and the patient was instructed to make an 
appointment with outpatient ophthalmology after discharge for a 
dilated retinal exam. While seizure and acephalgic migraine were 
still on the differential, she was asked to monitor for 
recurrent symptoms and follow up with neurology as directed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO DAILY 
2. coenzyme Q10 1000 mg oral DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. Zolpidem Tartrate 5 mg PO QHS:PRN sleep 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. coenzyme Q10 1000 mg oral DAILY 
7. Zolpidem Tartrate 5 mg PO QHS:PRN sleep 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.) Visual disturbances

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted with visual symptoms that had resolved by the 
time you came to the hospital. We felt that your symptoms were 
most likely secondary to migraine. However, we wanted to rule 
out a stroke in the parts of the brain that control vision as 
well as any structural lesion in that area that could be causing 
a seizure. You had a brain MRI that did not show any major 
abnormalities - just some small vessel disease which can happen 
over time with high blood pressure. 

You had a visual field test that was normal and we had a limited 
evaluation of the back of your eyes that was normal. However, 
you should still be evaluated by an eye doctor - preferably an 
ophthalmologist to make sure there is no damage to your retina 
that could explain your symptoms. 

 
Followup Instructions:
___